US09387200B2
a) 4-Hydroxy-7-methyl-3-phenyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester
Prepared in analogy to Example 36 from 7-bromo-4-hydroxy-3-phenyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester and tetramethyltin; MS (m/z): 315.32 (M+H+).

reactant | 7-bromo-4-hydroxy-3-phenyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)Br)SN=C2C2=CC=CC=C2)O | C15H11BrN2O3S
reactant | tetramethyltin | C[Sn](C)(C)C
product | 4-Hydroxy-7-methyl-3-phenyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C)SN=C2C2=CC=CC=C2)O | C16H14N2O3S
